US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-[(3-phenylpropyl)amino]propyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 3-phenylpropylamine (41 uL) according to Method A to give the title compound (48 mg). 1H-NMR (400 MHz, CD3OD) d 7.79 (s, 1H), 7.40 (d, J=8.5 Hz, 1H), 7.26-7.13 (m, 10H), 6.99 (d, J=8.5 Hz, 1H), 4.72 (s, 2H), 4.52 (t, J=6.8 Hz, 1H), 4.25 (dd, J=5.3 Hz, J=9.2 Hz, 1H), 3.18 (m, 1H), 3.09-2.92 (m, 4H), 2.77 (dd, J=9.5 Hz, J=13.5 Hz, 1H), 2.50 (t, J=7.7 Hz, 2H), 1.69 (m, 2H), 1.34 (s, 9H); IR (KBr) 3302, 2926, 1736, 1686, 1646 cm−1; HRMS m/z 647.2823 (calc. of monoisotopic mass for C35H41N3O9 gives 647.2823).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3-phenylpropylamine | 41 uL | C1(=CC=CC=C1)CCCN | C9H13N
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-[(3-phenylpropyl)amino]propyl}-2-(carboxymethoxy)benzoic Acid | 48 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C35H41N3O9
